US04977146
STEP 16D: 1-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-diol.
Sodium borohydride (0.66 g) was added to a suspension of 1-[3-(2-hydroxyethylsulfonyl)-4-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl) butan-1,4-dione (from previous experiment) in ethanol (125 mL), and the mixture was heated at 75° C. for 2 h. The solution was cooled and diluted with dichloromethane. It was then washed with 2.5 N HCl (2 x) and water, dried, and evaporated to a syrup, Rf 0.11 (hexane-ethyl acetate., 1:1, v/v). This material was used directly in the next experiment without further purification.

reactant | Sodium borohydride | 0.66 g | [BH4-].[Na+]
reactant | 1-[3-(2-hydroxyethylsulfonyl)-4-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl) butan-1,4-dione | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O | C31H36O10S
solvent | ethanol | 125 mL | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[3-(2-Hydroxyethylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-4-(3,4,5-trimethoxyphenyl)butan-1,4-diol | OCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O | C31H40O10S
